US20010049448A1
Into a flask were charged 100 g of 9-ethylcarbazole and 245 g of o-dichlorobenzene, and then nitration was carried out using nitric acid. The reaction solution was neutralized, and the oil layer separated was washed with water to provide 370 g of an o-dichlorobenzene solution of nitroethylcarbazole. The yield of 3-nitro-9-ethylcarbazole was 90%. The resulting solution contained 110 g of 3-nitro-9-ethylcarbazole, 8 g of 1-nitro-9-ethylcarbazole. The content of the nitrate was 250 ppm.

reactant | 9-ethylcarbazole | 100 g | C(C)N1C2=CC=CC=C2C=2C=CC=CC12 | C14H13N
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | o-dichlorobenzene | 245 g | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | nitroethylcarbazole | [N+](=O)([O-])CCC1=CC=CC=2C3=CC=CC=C3NC12 | C14H12N2O2
